US08058045B2
A mixture of 2-aminopyrazine (230 mg, 2.42 mmol), sodium tert-butoxide (232 mg, 2.42 mmol) and bis(tri-t-butylphosphine)palladium(0) (51 mg, 0.1 mmol) in toluene (2 mL) was degassed under a stream of nitrogen over 10 min. 4,6-Dichloropyrimidine (300 mg, 2.01 mmol) was added to the mixture and the reaction was heated at 80° C. for 2 h. After cooling, the solution was passed through a PS-SH cartridge and the solvent removed in vacuo. The residue was triturated with dichloromethane and the resulting solid was collected and dried by vacuum filtration to give crude 6-chloro-N-(pyrazin-2-yl)pyrimidin-4-amine (333 mg) which was used without further purification.

reactant | 2-aminopyrazine | 2.42 mmol, 230 mg | NC1=NC=CN=C1 | C4H5N3
reactant | sodium tert-butoxide | 2.42 mmol, 232 mg | CC(C)([O-])C.[Na+]
reactant | 4,6-Dichloropyrimidine | 2.01 mmol, 300 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.1 mmol, 51 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 6-chloro-N-(pyrazin-2-yl)pyrimidin-4-amine | 333 mg | ClC1=CC(=NC=N1)NC1=NC=CN=C1 | C8H6ClN5
